US06900209B2
Step 3: {5-[2-(tert-Butyldimethylsilyloxy)ethyl]pyridin-2-yl}methanol
BuLi (14.6 ml of a 1.6 M solution in hexanes, 23 mmol) was added to a stirred solution of 2-bromo-5-[2-(tert-butyldimethylsilyloxy)ethyl]pyridine (4.92 g, 15.6 mmol) in THF (100 ml) at −78° C. The resulting pale yellow solution was stirred for 1 h and then DMF (3.6 ml, 46.6 mmol) was added in one portion. The reaction mixture was warmed to room temperature and stirred for 90 min. MeOH (70 ml) was added, followed by NaBH4 (589 mg, 15.6 mmol) and stirring was continued for a further 1 h. The reaction was quenched by cautious addition of NH4Cl (sat. 100 ml) and the organics extracted with EtOAc (3×100 ml). The combined extracts were then washed with H2O (70 ml) and brine (70 ml), dried (MgSO4) and concentrated under reduced pressure. The material was used crude without further purification.

reactant | BuLi | [Li]CCCC
reactant | 2-bromo-5-[2-(tert-butyldimethylsilyloxy)ethyl]pyridine | 15.6 mmol, 4.92 g | BrC1=NC=C(C=C1)CCO[Si](C)(C)C(C)(C)C | C13H22BrNOSi
reactant | DMF | 46.6 mmol, 3.6 ml | CN(C)C=O | C3H7NO
reactant | NaBH4 | 15.6 mmol, 589 mg | [BH4-].[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | MeOH | 70 ml | CO | CH4O
product | {5-[2-(tert-Butyldimethylsilyloxy)ethyl]pyridin-2-yl}methanol | [Si](C)(C)(C(C)(C)C)OCCC=1C=CC(=NC1)CO | C14H25NO2Si
